US08975282B2
Step 2) N-(3-fluoro-4-((2-(3-(2-hydroxyethyl)ureido)pyridin-4-yl)oxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
A mixture of phenyl (4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)pyridin-2-yl)carbamate (100 mg, 0.18 mmol), NMP (5 mL) and 2-aminoethanol (3.0 mg, 0.22 mmol) was heated at 40° C. for 2 hours. The solvent was evaporated under reduced pressure at 40° C., and diluted with EtOAc (20 mL). The precipitate was collected by filtration, and then washed with EtOAc (3 mL) to give the title compound as a white solid (65 mg, 69%).

reactant | phenyl (4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)pyridin-2-yl)carbamate | 0.18 mmol, 100 mg | CN1N(C(C(=C1C)C(=O)NC1=CC(=C(OC2=CC(=NC=C2)NC(OC2=CC=CC=C2)=O)C=C1)F)=O)C1=CC=CC=C1 | C30H24FN5O5
reactant | 2-aminoethanol | 0.22 mmol, 3.0 mg | NCCO | C2H7NO
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
product | N-(3-fluoro-4-((2-(3-(2-hydroxyethyl)ureido)pyridin-4-yl)oxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 65 mg, 69% | FC=1C=C(C=CC1OC1=CC(=NC=C1)NC(=O)NCCO)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C26H25FN6O5
